US04751018
In 400 ml of dioxane was dissolved 30 g of 4-methoxy-4'-acetoxy biphenyl. To this solution was dropped an aqueous solution composed of 84 g of sodium hydroxide, 400 ml of water and 30 ml of bromine and maintained at 40° C., and the solution was stirred for 30 minutes. Thereafter, 200 g of sodium hydrogen sulfate and 1 l of water were added to the solution, and the resultant reaction solution was concentrated under a reduced pressure, methyl bromide and dioxane were evaporated from the reaction solution, an aqueous concentrated hydrochloric acid solution was added to the solution and the solution was then allowed to stand to form a precipitate. The precipitate was recovered by filtration, washed with water and then dried to obtain 28 g of crude 4-methoxy-4'-biphenylcarboxylic acid. In 1.2 l of acetic acid was dissolved 28 g of this crude 4-methoxy-4'-biphenylcarboxylic acid. Thereafter, 240 ml of hydrogen bromide (48% concentration) was added to this solution and the mixed solution was refluxed for 10 hours. To this solution, 3 l of ice water was added, thereby forming a precipitate. The precipitate was recovered by filtration, washed with water, and then dried. The dried product was dissolved in a mixture of 50 ml of acetic anhydride and 25 ml of pyridine, and the solution was dropped in 200 ml of ice water to form a precipitate. The precipitate was recovered by filtration, washed with water and then dried. Recrystallization of the dried precipitate from acetic acid yielded 18 g of 4-acetoxy-4'-biphenylcarboxylic acid. 18 g of the 4-acetoxy-4'-biphenylcarboxylic acid was reacted with 20 g diazomethane to obtain methyl 4-acetoxy-4'-biphenylcarboxylate. The methyl 4-acetoxy-4'-biphenylcarboxylate was dissolved in 500 ml of tetrahydrofuran and an equimolar amount of a 1N aqueous lithium hydroxide solution was added to the resultant solution thereby to hydrolyze the methyl 4-acetoxy-4'-biphenylcarboxylate. The reaction mixture was extracted with ether to obtain 13 g of methyl 4-hydroxy-4'-biphenylcarboxylate.

reactant | 4-methoxy-4'-acetoxy biphenyl | 30 g | COC1=CC=C(C=C1)C1=CC=C(C=C1)OC(C)=O | C15H14O3
reactant | sodium hydroxide | 84 g | [OH-].[Na+]
reactant | bromine | 30 ml | BrBr | Br2
reactant | sodium hydrogen sulfate | 200 g | S(=O)(=O)(O)[O-].[Na+]
reactant | dioxane | 400 ml | O1CCOCC1 | C4H8O2
solvent | water | 1 l | O | H2O
solvent | water | 400 ml | O | H2O
product | 4-methoxy-4'-biphenylcarboxylic acid | 28 g | COC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C14H12O3
